US04424213
2-Thiabicyclo[2.2.1]heptan-3-one O-[(methylamino)carbonyl]oxime
A solution of 6.6 g (0.046 m) of 2-thiabicyclo[2.2.1]heptan-3-one oxime, 2.9 g (0.05 m) of methyl isocyanate, and 60 ml of methylene chloride was stirred at room temperature for 17 hours. Removal of solvent gave 9.1 g of yellow-tan solid which was purified by dry column chromatography on silica gel using ether-acetone as eluent. There was obtained 5.2 g of the title product as a cream colored solid, m. 121°-2° C.

reactant | 2-thiabicyclo[2.2.1]heptan-3-one oxime | 6.6 g | C12SC(C(CC1)C2)=NO | C6H9NOS
reactant | methyl isocyanate | 2.9 g | CN=C=O | C2H3NO
solvent | methylene chloride | 60 ml | C(Cl)Cl | CH2Cl2
product | 2-Thiabicyclo[2.2.1]heptan-3-one O-[(methylamino)carbonyl]oxime | 9.1 g | CNC(=O)ON=C1SC2CCC1C2 | C8H12N2O2S
